US07214690B2
To a solution of (4R)-3-(2-fluoro-4-nitrophenyl)-4-isobutyl-2-trifluoromethyloxazolidine (4.8 g, 14.3 mmol) and Et3SiH (21.6 g, 186 mmol) in 60 mL chloroform was added BF3OEt2 (14.2, 60 mmol, added in portions) The reaction was heated at reflux for 1 d After cooling, the reaction was poured in water (200 mL) and extracted with chloroform (3 ×150 mL). The organic layers were combined, washed sequentially with water (200 mL) and brine (200 mL), dried (MgSO4), filtered, and concentrated under reduced pressure to a brown oil. Flash chromatography (gradient elution, hexanes:ethyl acetate 95:5 to 3:1) afforded 2.1 g (44%) of (2R)-2-[2-fluoro-4-nitro(2,2,2-trifluoroethyl)anilino]-4-methyl-1-pentanol, an orange oil. Data for (2R)-2-[2-fluoro-4-nitro(2,2,2-trifluoroethyl)anilino]-4-methyl-1-pentanol: Rf0.8 (3:1 hexanes:EtOAc); 1H NMR (400 MHz, CDCl3) δ 7.98 (dd, 1H, J=9.3, 2.4), 7.94 (dd, 1H, J=12.9, 2.5), 7.40 (dd, 1H, J=8.7, 8.7), 4.21–4.10 (m, 1H), 3.89–3.78 (m, 1H), 3.79–3.65 (m, 3H), 1.96–1.89 (m, 1H), 1.67–1.54 (m, 1H), 1.55–1.44 (m, 1H), 1.32–1.22 (m, 1H), 0.91 (d, 3H, J=6.6), 0.77 (d, 3H, J=6.6).

reactant | (4R)-3-(2-fluoro-4-nitrophenyl)-4-isobutyl-2-trifluoromethyloxazolidine | 14.3 mmol, 4.8 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1C(OC[C@H]1CC(C)C)C(F)(F)F | C14H16F4N2O3
reactant | Et3SiH | 186 mmol, 21.6 g | [SiH](CC)(CC)CC | C6H16Si
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 200 mL | O | H2O
product | (2R)-2-[2-fluoro-4-nitro(2,2,2-trifluoroethyl)anilino]-4-methyl-1-pentanol | 2.1 g, 44% | FC1=C(N([C@@H](CO)CC(C)C)CC(F)(F)F)C=CC(=C1)[N+](=O)[O-] | C14H18F4N2O3
